US09212173B2
To a cooled (0° C.) solution of 2,4,5-trichloropyrimidine (2.0 g, 11 mmol) in methanol (30 mL) was added dropwise a 2 M solution of methylamine in methanol (6.3 mL). The reaction was allowed to warm to room temperature and stirred overnight. The reaction was then concentrated and redissolved in DCM. The solution was washed with sat. NaHCO3, brine, dried over Na2SO4, filtered and concentrated. The crude product was purified by column chromatography (0-40% EtOAc in heptane) to give 2,5-dichloro-N-methylpyrimidin-4-amine (0.9 g, 50%). 1H-NMR (DMSO): δ 8.13 (s, 1H), 7.89 (s, 1H), 2.86 (d, J=4.5, 3H).

reactant | 2,4,5-trichloropyrimidine | 11 mmol, 2.0 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | methylamine | CN | CH5N
solvent | methanol | 30 mL | CO | CH4O
solvent | methanol | 6.3 mL | CO | CH4O
product | 2,5-dichloro-N-methylpyrimidin-4-amine | 0.9 g, 50% | ClC1=NC=C(C(=N1)NC)Cl | C5H5Cl2N3
